US08247430B2
2-amino-4-nitro-benzamide
To a solution of 2-amino-4-nitro-benzoic acid (9.1 g, 50 mmol) in CH2Cl2 (500 mL) was added EDC (12 gram, 60 mmol), HOBt (6.8 g, 50 mmol), DIEA (12 mL), and NH3 in MeOH (2M, 40 mL). The reaction was stirred at RT for overnight, and a precipitation formed. The solid was isolated via vacuum filtration.

reactant | 2-amino-4-nitro-benzoic acid | 50 mmol, 9.1 g | NC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H6N2O4
reactant | EDC | 60 mmol, 12 gram
reactant | HOBt | 50 mmol, 6.8 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 12 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NH3 | N | H3N
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 2M, 40 mL | CO | CH4O
product | 2-amino-4-nitro-benzamide | NC1=C(C(=O)N)C=CC(=C1)[N+](=O)[O-] | C7H7N3O3
